US06596751B2
4-[6-(4Amino-3 ,5dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]-N-(2-benzoylphenyl)phenylalanine dihydrochloride (dihydrochloride of exemplification compound number 3-285)
A mixture of 4-[6-(4-amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]-N-(2-benzoylphenyl)phenylalanine methyl ester (0.25 g), lithium hydroxide monohydrate (0.04 g), tetrahydrofuran (5 ml) and water (2 ml) was stirred at room temperature for 3 hours. The reaction mixture was neutralized with 1N hydrochloric acid and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was chromatographed on LiChroprepDIOL (Merck) using ethyl acetate as the eluant to give a yellow material. To a solution of the material in tetrahydrofuran (3 ml) was added 4N hydrogen chloride/dioxane (1 ml) to give crystals. The crystals were isolated by filtration to afford the title compound (0.11 g, mp 148-155° C.).

reactant | 4-[6-(4-amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]-N-(2-benzoylphenyl)phenylalanine methyl ester | 0.25 g | COC([C@@H](NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=NC2=C(N1C)C=C(C=C2)OC2=CC(=C(C(=C2)C)N)C)=O | C40H38N4O5
reactant | lithium hydroxide monohydrate | 0.04 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | hydrogen chloride dioxane | 4N, 1 ml | Cl.O1CCOCC1
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 4-[6-(4Amino-3 ,5dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]-N-(2-benzoylphenyl)phenylalanine dihydrochloride | 0.11 g | Cl.Cl.NC1=C(C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(C[C@H](NC4=C(C=CC=C4)C(C4=CC=CC=C4)=O)C(=O)O)C=C3)C)C2)C=C1C)C | InChI=1S/C39H36N4O5.2ClH/c1-24-19-30(20-25(2)37(24)40)48-29-17-18-33-35(22-29)43(3)36(42-33)23-47-28-15-13-26(14-16-28)21-34(39(45)46)41-32-12-8-7-11-31(32)38(44)27-9-5-4-6-10-27;;/h4-20,22,34,41H,21,23,40H2,1-3H3,(H,45,46);2*1H/t34-;;/m0../s1
